data/mechanism_extracts/NatCommun/10.1038_s41467-026-68437-w_si1.json
{"doi": "10.1038_s41467-026-68437-w_si1", "journal": "NatCommun", "is_review": false, "rxn_class_summary": "Cobalt-catalyzed electroreductive [3+2] coupling of biaryl bialdehydes with 1,6-enynes to form pyrrolidine-fused exocyclic alkenyl ketones.", "mechanism_family": ["electrocatalysis_inner_sphere", "sacrificial_anode"], "electrochemical_role": "Cathodic reduction of Co(II) precatalyst (with sacrificial Zn anode) generates a low-valent Co(I) species that initiates oxidative addition into the aldehyde C(acyl)-H bond.", "key_intermediates": [{"name": "Co(I)L* active catalyst generated by cathodic reduction of [(S,S)-BDPP]CoBr2", "smiles": null, "role": "reactive"}, {"name": "Co(III)-acyl hydride from oxidative addition into aldehyde C-H of bialdehyde 1a (intermediate A)", "smiles": null, "role": "reactive"}, {"name": "Alkenyl-Co(III) species after migratory insertion of alkyne of 1,6-enyne 2a (intermediate B)", "smiles": null, "role": "reactive"}, {"name": "Alkyl-Co(III) species after intramolecular migratory insertion of the pendant alkene (intermediate C/E)", "smiles": null, "role": "reactive"}, {"name": "Pyrrolidine-fused alkenyl ketone product 3a after C-H reductive elimination", "smiles": null, "role": "transient"}], "electron_flow": "The cathode reduces Co(II) to Co(I), which oxidatively adds into the aldehyde C(acyl)-H bond to give a Co(III)-acyl hydride; sequential migratory insertions across the alkyne and then the alkene of the 1,6-enyne transfer the hydride to the alkyl terminus, and final C-H reductive elimination releases the product and regenerates Co(I). The Zn anode supplies the balancing oxidation.", "rate_determining_step": "Migratory insertion / C-H bond-forming step is implicated; oxidative addition of the aldehyde C-H is not rate-limiting (kH/kD ≈ 1.0).", "probe_reagents": [{"name": "Mono-deuterated bialdehyde D-1a (90% D at one CHO)", "smiles": null, "purpose": "isotope_label", "observation": "Product D-3a obtained in 72% yield with 90% D incorporation specifically at the exocyclic CH2D position, confirming transfer of the aldehyde H/D to the terminal sp3 carbon of the enyne-derived pyrrolidine."}, {"name": "Crossover of D-1a with non-deuterated bialdehyde 1c", "smiles": null, "purpose": "isotope_label", "observation": "D-3a (63%, 90% D) and 3q (66%, 0% D) formed without scrambling, indicating intramolecular H/D transfer with no intermolecular crossover."}, {"name": "Parallel KIE using 1a + D-1a", "smiles": null, "purpose": "KIE", "observation": "kH/kD ≈ 1.0, indicating that cleavage of the aldehyde C-H bond is not the turnover-limiting step."}], "evidence_types_used": ["KIE", "H/D_labeling", "crossover", "product_isotope_distribution"], "evidence_strength": "medium", "notes": "An alternative pathway involving Co(I)/Co(III) oxidative addition into the aldehyde C-H, followed by alkyne migratory insertion (B), alkene migratory insertion (C/E via D), and reductive elimination is depicted in Supplementary Figure 6 as the favored cycle consistent with the intramolecular H/D transfer and unity KIE. A radical chain or outer-sphere SET pathway is not invoked."}
